US07812183B2
(3S,4R)-4-(Benzo[d]isoxazol-3-yloxy)-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile (Compound #23)
Following the procedure in Example 1, using (S,S)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile and benzo[d]isoxazol-3-one as starting materials, the title compound was prepared as a white solid.

reactant | (S,S)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile | CC1([C@@H]2[C@H](C3=CC(=CC=C3O1)C#N)O2)C | C12H11NO2
reactant | benzo[d]isoxazol-3-one | O1NC(C2=C1C=CC=C2)=O | C7H5NO2
product | (3S,4R)-4-(Benzo[d]isoxazol-3-yloxy)-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile | O1N=C(C2=C1C=CC=C2)O[C@H]2[C@@H](C(OC1=CC=C(C=C21)C#N)(C)C)O | C19H16N2O4
